US04314065
A mixture of 2-bromo-5-nitrothiazole (4.18 g), 4-(N-methylamino)phenol and water (50 ml) was heated under reflux for a period of 18 hours. The cooled solution was neutralised with aqueous potassium hydrogen carbonate and extracted with diethyl ether. The organic extract was dried over anhydrous magnesium sulfate and the solvent removed by distillation under reduced pressure to give 4-[N-methyl-N-(5-nitro-2-thiazolyl)amino]phenol (2.51 g) as an oil. The pmr spectrum of the compound was consistent with the assigned structure (CDCl3 ; chemical shift δ ppm): 3.55, s, 3H; 5.85, br.s, 1H; 7.15, m, 4H; 8.20, s, 1H.

reactant | 2-bromo-5-nitrothiazole | 4.18 g | BrC=1SC(=CN1)[N+](=O)[O-] | C3HBrN2O2S
reactant | 4-(N-methylamino)phenol | CNC1=CC=C(C=C1)O | C7H9NO
reactant | potassium hydrogen carbonate | C(O)([O-])=O.[K+]
solvent | water | 50 ml | O | H2O
product | 4-[N-methyl-N-(5-nitro-2-thiazolyl)amino]phenol | 2.51 g | CN(C=1SC(=CN1)[N+](=O)[O-])C1=CC=C(C=C1)O | C10H9N3O3S
